US04435567
6.32 g benzylcarbamoyl-benzoic acid sulfimide was suspended in 40 ml of a 1:1 mixture of water and aceton. 2.55 g p-chloroaniline was added to the suspension, then a solution of 2.8 ml triethylamine with 10 ml of a 1:1 water-aceton mixture was added dropwise at ambient temperature during a half hour. The reaction mixture was stirred for 5 hours at room temperature, the obtained product was evacuated, washed with a 1:1 mixture of water and aceton and dried. 4.3 g 1-(4-chlorophenyl)-3-benzylurea was obtained, which melted at 206°-208° C.

reactant | benzylcarbamoyl-benzoic acid sulfimide | 6.32 g | [SH2]=N.C(C1=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | water | O | H2O
reactant | aceton | CC(=O)C | C3H6O
reactant | p-chloroaniline | 2.55 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | water aceton | 10 ml | O.CC(=O)C
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-chlorophenyl)-3-benzylurea | 4.3 g | ClC1=CC=C(C=C1)NC(=O)NCC1=CC=CC=C1 | C14H13ClN2O
